US05026722
4-Methylamino-N,N-dimethyl-5-propyl-1H-imidazole-1-sulphonamide hydrochloride
4-(Chloromethyl)-N,N-dimethyl-5-propyl-1H-imidazole-1-sulphonamide (189 mg) was stirred with excess methylamine (33% solution in ethanol; 5 ml) at room temperature under nitrogen for 18 h. The reaction mixture was evaporated under reduced pressure to give the title compound as an oil (167 mg), t.l.c. (System A, 100:10:1) Rf 0.21.

reactant | 4-(Chloromethyl)-N,N-dimethyl-5-propyl-1H-imidazole-1-sulphonamide | 189 mg | ClCC=1N=CN(C1CCC)S(=O)(=O)N(C)C | C9H16ClN3O2S
reactant | methylamine | 5 ml | CN | CH5N
product | 4-Methylamino-N,N-dimethyl-5-propyl-1H-imidazole-1-sulphonamide hydrochloride | 167 mg | Cl.CNC=1N=CN(C1CCC)S(=O)(=O)N(C)C | InChI=1S/C9H18N4O2S.ClH/c1-5-6-8-9(10-2)11-7-13(8)16(14,15)12(3)4;/h7,10H,5-6H2,1-4H3;1H
